US06340759B1
According to the method of Example 10-1, N-methyl-2-methylbenzamide (3.75 g) and 4-(3-methoxypropyl)benzonitrile (4.40 g) were reacted, to give 3-[4-(3-methoxypropyl)phenyl]isoquinolin-1-one (1.98 g).

reactant | N-methyl-2-methylbenzamide | 3.75 g | CNC(C1=C(C=CC=C1)C)=O | C9H11NO
reactant | 4-(3-methoxypropyl)benzonitrile | 4.40 g | COCCCC1=CC=C(C#N)C=C1 | C11H13NO
product | 3-[4-(3-methoxypropyl)phenyl]isoquinolin-1-one | 1.98 g | COCCCC1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C19H19NO2
